US07405299B2
A. Preparation of 6-Bromo-imidazo[1,2-a]pyridine-3-carboxylic acid ethyl ester
Add concentrated sulfuric acid (0.56 g, 5.78 mmol) to a suspension of 2-chloro-3-oxo-propionic acid ethyl ester potassium salt (Tetrahedron 2000, 58(40), 7915-7921; 3.27 g, 17.3 mmol) and 2-amino-5-bromopyridine (1.0 g, 5.78 mmol) in ethanol (100 mL). Reflux for 2 h, cool, and carefully dilute with saturated aqueous sodium bicarbonate. Extract in ethyl acetate, combine organic extracts, and concentrate. Flash chromatography using appropriate ethyl acetate/methanol mixtures gives 0.85 g (55%) of the subtitled compound as a white solid. MS ES+m/e 269.0, 271.0 (M+1) bromine isotope. 1H NMR (400 MHz, DMSO-d6) δ 9.32 (m, 1H), 8.28 (s, 1H), 7.79 (d, J=10 Hz, 1H), 7.70 (dd, J=10, 2 Hz, 1H), 4.36 (q, J=7.0 Hz, 2H), 1.33 (t, J=7.0 Hz, 3H).

reactant | sulfuric acid | 5.78 mmol, 0.56 g | S(O)(O)(=O)=O | H2O4S
reactant | 2-chloro-3-oxo-propionic acid ethyl ester potassium salt | 17.3 mmol, 3.27 g | [K].C(C)OC(C(C=O)Cl)=O
reactant | 2-amino-5-bromopyridine | 5.78 mmol, 1.0 g | NC1=NC=C(C=C1)Br | C5H5BrN2
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 6-Bromo-imidazo[1,2-a]pyridine-3-carboxylic acid ethyl ester | 0.85 g, 55% | C(C)OC(=O)C1=CN=C2N1C=C(C=C2)Br | C10H9BrN2O2
